US05250554
Methyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-(2-methoxyethyl)benzimidazole-7-carboxylate
A mixture of methyl 2-(2-chloroethyl)-1-[(2'-cyanobiphenyl-4-yl)methyl]benzimidazole-7-carboxylate (1.0 g) and K2CO3 (0.25 g) in methanol (30 ml) was refluxed for 2 hours. The reaction mixture was concentrated to dryness to give a residue. The residue was dissolved to dryness to give a residue. The residue filtered off. The filtrate was concentrated to dryness and a resulting syrup was purified by column chromatography on silica gel to give a pale yellow syrup (0.45 g, 59%).

reactant | methyl 2-(2-chloroethyl)-1-[(2'-cyanobiphenyl-4-yl)methyl]benzimidazole-7-carboxylate | 1.0 g | ClCCC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=CC=C2)C(=O)OC | C25H20ClN3O2
reactant | K2CO3 | 0.25 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 30 ml | CO | CH4O
product | Methyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-(2-methoxyethyl)benzimidazole-7-carboxylate | 0.45 g, 59% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C(=CC=C2)C(=O)OC)CCOC | C26H23N3O3
